US05532367
This compound is prepared in a manner analogous to that of Step B of Example 9, using 1.3 grams (0.006 mole) of 3-amino-2-cyano-6-(trimethylsilylethynyl)pyridine and 0.9 gram (0.006 mole) of potassium carbonate in 50 mL of methanol, yielding 3-amino-2-cyano-6-ethynylpyridine. This reaction is repeated several times.

reactant | 3-amino-2-cyano-6-(trimethylsilylethynyl)pyridine | 0.006 mole, 1.3 grams | NC=1C(=NC(=CC1)C#C[Si](C)(C)C)C#N | C11H13N3Si
reactant | potassium carbonate | 0.006 mole, 0.9 gram | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-amino-2-cyano-6-ethynylpyridine | NC=1C(=NC(=CC1)C#C)C#N | C8H5N3
